US07687495B2
l) Trifluoro-methanesulfonic acid 4-[(2S,4R,5R)-5-hydroxy-2-hydroxymethyl-1-(toluene-4-sulfonyl)-piperidin-4-yl]-phenyl ester
To a solution of 29.39 g of (3R,4R,6S)-6-hydroxymethyl-4-(4-hydroxy-phenyl)-1-(toluene-4-sulfonyl)-piperidin-3-ol in 170 ml of Dichloromethane are added 29.23 g of N-phenyltrifluoromethane sulfonimide and 11.55 ml of triethylamine. The reaction mixture is stirred for 2 hours at room temperature, diluted with sodium bicarbonate solution and extracted with dichloro-methane. The organic phases are combined, dried and concentrated under reduced pressure. The residue is purified by flash chromatography (SiO2 60 F) to afford the title compound white solid. Rf=0.27 (EtOAc-heptane 1:1); Rt=4.46.

reactant | (3R,4R,6S)-6-hydroxymethyl-4-(4-hydroxy-phenyl)-1-(toluene-4-sulfonyl)-piperidin-3-ol | 29.39 g | OC[C@@H]1C[C@@H]([C@H](CN1S(=O)(=O)C1=CC=C(C=C1)C)O)C1=CC=C(C=C1)O | C19H23NO5S
reactant | N-phenyltrifluoromethane sulfonimide | 29.23 g | C1=CC=C(C=C1)N(S(=O)(=O)C(F)(F)F)S(=O)(=O)C(F)(F)F | C8H5F6NO4S2
reactant | triethylamine | 11.55 ml | C(C)N(CC)CC | C6H15N
solvent | Dichloromethane | 170 ml | ClCCl | CH2Cl2
solvent | sodium bicarbonate | C([O-])(O)=O.[Na+]
product | Trifluoro-methanesulfonic acid 4-[(2S,4R,5R)-5-hydroxy-2-hydroxymethyl-1-(toluene-4-sulfonyl)-piperidin-4-yl]-phenyl ester | O[C@@H]1[C@H](C[C@H](N(C1)S(=O)(=O)C1=CC=C(C=C1)C)CO)C1=CC=C(C=C1)OS(=O)(=O)C(F)(F)F | C20H22F3NO7S2
